US04634705
1-Fluoro-2-methyoxy-3-[(2-propenyl)oxy]benzene
A mixture of 3-fluoro-2-methoxyphenol (19.5 g; 0.137 m) potassium carbonate (85 g), allyl bromide (15 ml) and acetone (100 ml) was refluxed for 4 hours. The reaction was cooled to room temperature and evaporated to dryness. The residue was partitioned between water and dichloromethane. The organic layer was separated, dried and evaporated affording 19.0 g of the desired product as an oil.

reactant | 3-fluoro-2-methoxyphenol | 19.5 g | FC=1C(=C(C=CC1)O)OC | C7H7FO2
reactant | potassium carbonate | 85 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 15 ml | C(C=C)Br | C3H5Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-Fluoro-2-methyoxy-3-[(2-propenyl)oxy]benzene | 19.0 g | FC1=C(C(=CC=C1)OCC=C)OC | C10H11FO2
